US05175157
3-[3-(N-(3-(Pyrid-3-yl)-propyl)-piperidin-3-yl)-propyl)-7,8-dimethoxy-2-oxo-1,3-dihydro-2H-3-benzazepine-dihydrochloride-monohydrate
Prepared from 7,8-dimethoxy-2-oxo-1,3-dihydro-2H-3-benzazepine and 3-(3-chloropropyl)-N-[3-(pyrid-3-yl)-propyl]-piperidine analogously to Example 2.

reactant | 7,8-dimethoxy-2-oxo-1,3-dihydro-2H-3-benzazepine | COC1=CC2=C(CC(NC=C2)=O)C=C1OC | C12H13NO3
reactant | 3-(3-chloropropyl)-N-[3-(pyrid-3-yl)-propyl]-piperidine | ClCCCC1CN(CCC1)CCCC=1C=NC=CC1 | C16H25ClN2
product | 3-[3-(N-(3-(Pyrid-3-yl)-propyl)-piperidin-3-yl)-propyl)-7,8-dimethoxy-2-oxo-1,3-dihydro-2H-3-benzazepine-dihydrochloride-monohydrate | O.Cl.Cl.N1=CC(=CC=C1)CCCN1CC(CCC1)CCCN1C=CC2=C(CC1=O)C=C(C(=C2)OC)OC | InChI=1S/C28H37N3O3.2ClH.H2O/c1-33-26-17-24-11-16-31(28(32)19-25(24)18-27(26)34-2)15-6-10-23-9-5-14-30(21-23)13-4-8-22-7-3-12-29-20-22;;;/h3,7,11-12,16-18,20,23H,4-6,8-10,13-15,19,21H2,1-2H3;2*1H;1H2
